US08859591B2
In a 3-neck flask at −30° C. containing ethyl 4-iodobenzoate (600 mg, 2.17 mmol) in anhydrous tetrahydrofuran (6.00 mL) was added isopropylmagnesium chloride lithium chloride complex (1.84 mL, 2.39 mmol) dropwise and then stirred at the same temperature for another 40 min. Copper iodide (124 mg, 0.650 mmol) was then added quickly in one portion. The mixture was brought to −15° C. for 20 min. to ensure the solid has dissolved. The reaction is then brought back to −40° C. Crude 3,3-difluorocyclobutanecarbonyl chloride (470 mg, 1.50 mmol pure) was then added and the reaction was then warmed to 0° C. over 1 h and then stirred at room temperature for 18 h. The mixture was then diluted with 1 N HCl and extracted three times with ethyl acetate. The combined organic layers were then washed with brine and then dried over sodium sulfate, filtered, and concentrated to provide 680 mg of crude oil. Purification by silica gel flash chromatography (0-10% ethyl acetate in heptane) afforded impure ethyl 4-(3,3-difluorocyclobutanecarbonyl)benzoate (130 mg, approximately 0.24 mmol pure) as a solid. 1H NMR (400 MHz, CDCl3) δ 8.09 (d, J=9.0 Hz, 2H), 7.18 (d, J=9.2 Hz, 2H), 4.39 (q, J=7.4 Hz, 2H), 3.34-3.15 (m, 1H), 3.12-2.78 (m, 4H), 1.40 (t, J=7.4 Hz, 3H).

reactant | ethyl 4-iodobenzoate | 2.17 mmol, 600 mg | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | 3,3-difluorocyclobutanecarbonyl chloride | 1.50 mmol, 470 mg | FC1(CC(C1)C(=O)Cl)F | C5H5ClF2O
solvent | tetrahydrofuran | 6.00 mL | O1CCCC1 | C4H8O
solvent | HCl | 1 N | Cl | ClH
catalyst | Copper iodide | 0.650 mmol, 124 mg | [Cu](I)I
product | ethyl 4-(3,3-difluorocyclobutanecarbonyl)benzoate | approximately 0.24 mmol, 130 mg | FC1(CC(C1)C(=O)C1=CC=C(C(=O)OCC)C=C1)F | C14H14F2O3
